US04937251
4-Amino-3,5-dichloro-α-[[[6-[3-(2-pyridinyl)propoxy]hexyl]amino]methyl]benzenemethanol
A solution of (Z)-4-amino-3,5-dichloro-α-[[(phenylmethyl)[6-[[3-(2-pyridinyl)-2-propenyl]oxy]hexyl]amino]methyl]benzenemethanol (0.65 g) in ethanol (15 ml) containing hydrochloric acid (2.7 mmol) was hydrogenated over 10% palladium on charcoal (0.15 g), filtered and evaporated. The residue was partitioned between aqueous sodium bicarbonate (1M; 30 ml) and ethyl acetate (150 ml) and the dried organic phase was evaporated to give a brown gum. The gum was purified by FCC eluting with System A (93:7:1→85:15:1), to give the title compound as a white solid (0.32 g) m.p. 38°-41°.

reactant | (Z)-4-amino-3,5-dichloro-α-[[(phenylmethyl)[6-[[3-(2-pyridinyl)-2-propenyl]oxy]hexyl]amino]methyl]benzenemethanol | 0.65 g | NC1=C(C=C(C=C1Cl)C(O)CN(CCCCCCOC\C=C/C1=NC=CC=C1)CC1=CC=CC=C1)Cl | C29H35Cl2N3O2
reactant | hydrochloric acid | 2.7 mmol | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
product | 4-Amino-3,5-dichloro-α-[[[6-[3-(2-pyridinyl)propoxy]hexyl]amino]methyl]benzenemethanol | 0.32 g | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCCC1=NC=CC=C1)Cl | C22H31Cl2N3O2
